US07138533B2
5-(5-Chloropentanoyl)-N-methyl-2,3-dihydro-1-benzofuran-7-sulfonamide
Using 5-(5-chloropentanoyl)-2,3-dihydro-1-benzofuran-7-sulfonyl chloride (5.06 g) obtained in Reference Example 69 and a 40% methylamine-methanol solution (2.6 g) according to the same method as that of Reference Example 66, the title compound was obtained as colorless crystals (4.82 g) having a melting point of 120 to 121° C.

reactant | 5-(5-chloropentanoyl)-2,3-dihydro-1-benzofuran-7-sulfonyl chloride | 5.06 g | ClCCCCC(=O)C=1C=C(C2=C(CCO2)C1)S(=O)(=O)Cl | C13H14Cl2O4S
reactant | methylamine methanol | 2.6 g | CN.CO
product | 5-(5-Chloropentanoyl)-N-methyl-2,3-dihydro-1-benzofuran-7-sulfonamide | ClCCCCC(=O)C=1C=C(C2=C(CCO2)C1)S(=O)(=O)NC | C14H18ClNO4S
